US04479953
5,6-Dichloro-3-[(2,4-dinitrophenyl)thioimino]methylpyrazinamine by the reaction of 2,4-dinitrobenzenesulfenyl chloride with ammonium hydroxide to form 2,4-dinitrobenzenesulfenamide, followed by the reaction of the latter with 3-amino-5,6-dichloropyrazinaldehyde.

reactant | 5,6-Dichloro-3-[(2,4-dinitrophenyl)thioimino]methylpyrazinamine | ClC=1N=C(C(=NC1Cl)N)C=NSC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C11H6Cl2N6O4S
reactant | 2,4-dinitrobenzenesulfenyl chloride | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])SCl | C6H3ClN2O4S
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 2,4-dinitrobenzenesulfenamide | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])SN | C6H5N3O4S
